US05298627
A solution of (4R-cis)-6-(cyanomethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide (10.0 g, 0.027 mol) in methanol (150 mL) containing anhydrous ammonia (2.25 g) is reacted with hydrogen gas in a Parr shaker at 30° C. in the presence of a slurry of Raney nickel A-7000 (3.8 g). After 3 hours, uptake of hydrogen has ceased, the mixture is cooled to 20° C., the atmosphere is vented and exchanged for nitrogen, the slurry is filtered through celite, and concentrated at reduced pressure to give 9.5 g of (4R-cis)-6-(2-aminoethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide as an oil.

reactant | (4R-cis)-6-(cyanomethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide | 0.027 mol, 10.0 g | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C22H24N2O3
reactant | ammonia | 2.25 g | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | (4R-cis)-6-(2-aminoethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide | 9.5 g | NCC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C22H28N2O3
